US04929624
To a stirred solution of 150 ml of dichloromethane, 10 ml of triethylamine and 6.7 g (0.075 mole) of 1-amino-2-methyl-2-propanol was added 10.4 g (0.05 mole) of 4-chloro-3-nitroquinoline. The solution was heated on a steam bath for about one hour then evaporated to remove the solvent. The residue was dissolved in dilute hydrochloric acid and filtered. The filtrate was made basic with concentrated ammonium hydroxide to reprecipitate the product. The product was separated by filtration and recrystallized twice from ethanol to provide the novel yellow solid 2-methyl-1-[(3-nitro-4-quinolinyl)amino]-2-propanol, m.p. 244°-246° C. (dec.). Analysis: Calculated for C13H15N3O3 : %C, 59.8; %H, 5.8; %N, 16.0; Found: %C, 59.8; %H, 5.9; %N 16.1.

reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
reactant | 1-amino-2-methyl-2-propanol | 0.075 mole, 6.7 g | NCC(C)(O)C | C4H11NO
reactant | 4-chloro-3-nitroquinoline | 0.05 mole, 10.4 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 2-methyl-1-[(3-nitro-4-quinolinyl)amino]-2-propanol | CC(CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])(C)O | C13H15N3O3
